US04180395
A mixture was prepared by admixing 12.9 grams (0.07 mole) of 3,5-dichloro-2,6-difluoropyridine, 100 milliliters of diethyleneglycol n-butyl ether and 3.3 grams (0.75 mole) of a hexane slurry of sodium hydride. The sodium hydride was a 53 percent oil dispersion and had been washed 3 times with 10 milliliter portions of hexane. Considerable foaming occurred and after foaming ceased, the reaction mixture was stirred for ~10 minutes at room temperature and thereafter diluted with 200 milliliters of water. The mixture was extracted 3 times with 100 milliliter portions of hexane, the extracts combined and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The oil which remained as a residue was vacuum distilled to yield 14.3 grams of 2-[2-(2-butoxyethoxy)ethoxy]-3,5-dichloro-6-fluoropyridine as a water-white product. The product had a boiling point of 113°-124° C. at 0.3 millimeters of mercury (mm). Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 47.55, 5.37 and 4.36 percent, respectively, as compared with the theoretical contents of 47.87, 5.56 and 4.29 percent, respectively, as calculated for the above named compound.

reactant | 3,5-dichloro-2,6-difluoropyridine | 0.07 mole, 12.9 grams | ClC=1C(=NC(=C(C1)Cl)F)F | C5HCl2F2N
reactant | hexane | 0.75 mole, 3.3 grams | CCCCCC | C6H14
reactant | sodium hydride | [H-].[Na+]
reactant | diethyleneglycol n-butyl ether | 100 milliliters | C(CCC)OCCOCCO | C8H18O3
product | 2-[2-(2-butoxyethoxy)ethoxy]-3,5-dichloro-6-fluoropyridine | 14.3 grams | C(CCC)OCCOCCOC1=NC(=C(C=C1Cl)Cl)F | C13H18Cl2FNO3
